US07994185B2
2,5-Difluoro-N-{2-fluoro-5-[5-[2-(methylamino)-4-pyrimidinyl]-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.10 g, 0.190 mmol) and methylamine in THF (1.0 mL, 2.0 mmol) the title compound was obtained (0.082 g, 0.16 mmol, 83% yield). 1H NMR (400 MHz, DMSO-d6) δ 10.75 (1H, s), 8.08-8.00 (m, 1H), 7.59-7.40 (m, 3H), 7.39-7.30 (m, 2H), 7.27-7.11 (m, 2H), 6.16 (br. s., 1H), 3.30-3.21 (m, 1H), 2.71 (br, 3H), 1.31 (d, J=7.0 Hz, 6H). MS (ESI): 520 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.190 mmol, 0.10 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C22H16ClF3N4O2S2
reactant | methylamine | CN | CH5N
reactant | THF | 2.0 mmol, 1.0 mL | C1CCOC1 | C4H8O
product | 2,5-Difluoro-N-{2-fluoro-5-[5-[2-(methylamino)-4-pyrimidinyl]-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | 83% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=C(C=CC(=C1)C=1N=C(SC1C1=NC(=NC=C1)NC)C(C)C)F | C23H20F3N5O2S2
